US07732460B2
(b) Methyl (3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)acetate
A mixture of (3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)acetic acid, (5.0 g), methanol (75 ml) and 4M hydrochloric acid in 1,4-dioxane (20 ml) was stirred overnight. Evaporation afforded a white solid.

reactant | (3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)acetic acid | 5.0 g | O=C1NNC(C=C1CC(=O)O)=O | C6H6N2O4
reactant | methanol | 75 ml | CO | CH4O
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | Methyl (3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)acetate | O=C1NNC(C=C1CC(=O)OC)=O | C7H8N2O4
